US09284286B2
A mixture of ethyl 2-bromo-propanedioic acid diethyl ester (32.0 g, 133.2 mmol) and thioacetamide (10.0 g, 133.2 mmol) in toluene (130 ml) is refluxed for 4 h and then cooled. The insoluble material is filtered off and the filtrate is concentrated. The residue is suspended in diisopropyl ether and collected by filtration to give the 4-hydroxy-2-methyl-thiazole-5-carboxylic acid ethyl ester (7.2 g, 38.5 mmol, 29%).

reactant | ethyl 2-bromo-propanedioic acid diethyl ester | 133.2 mmol, 32.0 g | C(C)OC(C(C(=O)OCC)(Br)CC)=O | C9H15BrO4
reactant | thioacetamide | 133.2 mmol, 10.0 g | C(C)(=S)N | C2H5NS
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-2-methyl-thiazole-5-carboxylic acid ethyl ester | 38.5 mmol, 7.2 g, 29% | C(C)OC(=O)C1=C(N=C(S1)C)O | C7H9NO3S
